US07589232B2
Step a) Formation of 3-cyclopentyl-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl)-N-{4-[(4-propoxyphenyl)ethynyl]benzyl}propanamide
The titled compound was prepared following the procedure N using N-(4-bromobenzyl)-3-cyclopentyl-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl)propanamide and 4-(propoxy)-phenylacetylene as a beige powder (59%). M+ (ESI): 566.2. HPLC, Rt: 6.17 min (Purity: 97.7%).

reactant | N-(4-bromobenzyl)-3-cyclopentyl-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl)propanamide | BrC1=CC=C(CN(C(CCC2CCCC2)=O)C=2C=CC3=C(OC(OC3=O)(C)C)C2)C=C1 | C25H28BrNO4
reactant | 4-(propoxy)-phenylacetylene | C(CC)OC1=CC=C(C=C1)C#C | C11H12O
product | 3-cyclopentyl-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl)-N-{4-[(4-propoxyphenyl)ethynyl]benzyl}propanamide | C1(CCCC1)CCC(=O)N(CC1=CC=C(C=C1)C#CC1=CC=C(C=C1)OCCC)C=1C=CC2=C(OC(OC2=O)(C)C)C1 | C36H39NO5
